US04259504
N'-[p-[5-(p-Fluorophenyl)-1H-1,2,4-triazol-1-yl]-phenyl]-N,N-dimethylformamidine
A 1.7 g. portion of 1-(p-aminophenyl)-5-(p-fluorophenyl)-1H-1,2,4-triazole is gently refluxed in a mixture of 5.0 ml. of dimethylformamide dimethylacetal and 2.5 ml. of dimethylformamide. Heating is continued for 1.5 hours, then the mixture is evaporated under high vacuum (70° C.) to a brown oil. This oil is triturated with 50 ml. of ether. The solid is collected by filtration, dried and recrystallized from 25 ml. of hot cyclohexane, giving 1.1 g. of the desired product as a light tan solid, mp. 90°-93° C.

reactant | 1-(p-aminophenyl)-5-(p-fluorophenyl)-1H-1,2,4-triazole | NC1=CC=C(C=C1)N1N=CN=C1C1=CC=C(C=C1)F | C14H11FN4
reactant | dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | N'-[p-[5-(p-Fluorophenyl)-1H-1,2,4-triazol-1-yl]-phenyl]-N,N-dimethylformamidine | FC1=CC=C(C=C1)C1=NC=NN1C1=CC=C(C=C1)N=CN(C)C | C17H16FN5
